### PR TITLE
[Merged by Bors] - chore(Algebra): some API for `IsLocalizedModule.Away`

### PR DESCRIPTION
**Pull request by chrisflav**
These are mostly analogues of what we have for `IsLocalization.Away`. The `Away` file was previously deprecated, but seems like the natural fit for the material, since the `Basic` file is currently just below the 1.5k length limit.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Module/LocalizedModule/Away.lean [hunk 1]
```diff
@@ -1,5 +1,83 @@
...
+
+lemma mk (h₁ : IsUnit (algebraMap R (Module.End R N) r))
+    (h₂ : ∀ (x : N), ∃ (n : ℕ) (y : M), r ^ n • x = f y)
+    (h₃ : ∀ (x y : M), f x = f y → ∃ (n : ℕ), r ^ n • x = r ^ n • y) :
+    IsLocalizedModule.Away r f where
+  map_units := fun ⟨_, ⟨n, rfl⟩⟩ ↦ by simp [h₁.pow]
+  surj x := by
+    obtain ⟨n, y, hy⟩ := h₂ x
+    use ⟨y, ⟨_, n, rfl⟩⟩
+    exact hy
```
Comment (kbuzzard) [inline Mathlib/Algebra/Module/LocalizedModule/Away.lean]:
```suggestion
    use ⟨y, ⟨_, n, rfl⟩⟩, hy
```
Or do you think that's worse? (i.e. less readable). Same comment three lines further down this file. Edit: oh I see you use this idiom later on anyway, so why not here?

File: Mathlib/Algebra/Module/LocalizedModule/Away.lean [hunk 2]
```diff
@@ -1,5 +1,82 @@
...
+    (h₃ : ∀ (x y : M), f x = f y → ∃ (n : ℕ), r ^ n • x = r ^ n • y) :
+    IsLocalizedModule.Away r f where
+  map_units := fun ⟨_, ⟨n, rfl⟩⟩ ↦ by simp [h₁.pow]
+  surj x := by
+    obtain ⟨n, y, hy⟩ := h₂ x
+    use ⟨y, ⟨_, n, rfl⟩⟩, hy
+  exists_of_eq {x y} hxy := by
+    obtain ⟨n, hn⟩ := h₃ _ _ hxy
+    use ⟨_, n, rfl⟩
+    exact hn
```
Comment (chrisflav) [inline Mathlib/Algebra/Module/LocalizedModule/Away.lean]:
```suggestion
    use ⟨_, n, rfl⟩, hn
```

**Comment by kbuzzard** [comment]
Maybe you should move the definition of `IsLocalizedModule.Away` into this file? It now feels a bit more sensible to have it here (and it makes `Basic` shorter :-) And it would be a test for the new declaration diff thing!). And perhaps also `LocalizedModule.Away`?

bors d+

**Comment by chrisflav** [comment]
I think we should keep `IsLocalizedModule.Away` in the `Basic` file, because it makes it more discoverable (it was previously in the `Away` file, which caused people to use `IsLocalizedModule (.powers r)` instead of `IsLocalizedModule.Away r` to avoid the additional import / because they were not aware of the `abbrev`).
